US07652143B2
4-Allylanisole (98%; 3.0 g; 19.86 mmol) was dissolved in glacial acetic acid (180 ml), water (180 ml) and acetone (180 ml). KMnO4 (4.7 g; 29.79 mmol) was added over the course of 1 h. The mixture was then stirred at (RT) for 1 h. It was then decolorized with saturated NaHCO3 solution. The reaction volume was reduced in a rotary evaporator. This was followed by extraction with CH2Cl2, washing of the organic phase with water and drying over Na2SO4. The solvent was then removed in a rotary evaporator. The oily residue was purified by column chromatography (SiO2; EtOAc/n-heptane 1:2). 1-Hydroxy-3-(4-methoxyphenyl)propan-2-one was obtained as a white crystalline powder. MS: 81.20 (M+H); Rt: 0.83 min (method: gradient 0 min 96% H2O (0.05% TFA) 2.0 min 95% acetonitrile, 95% acetonitrile to 2.4 min, 4% acetonitrile 2.45 min; flow rate 1 ml/min; column 0.4 μL (YMC J'sphere ODS H80 20X2 1.4μ); 30° C.)

reactant | 4-Allylanisole | 19.86 mmol, 3.0 g | C(C=C)C1=CC=C(C=C1)OC | C10H12O
reactant | water | 180 ml | O | H2O
reactant | KMnO4 | 29.79 mmol, 4.7 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetic acid | 180 ml | C(C)(=O)O | C2H4O2
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | 1-Hydroxy-3-(4-methoxyphenyl)propan-2-one | OCC(CC1=CC=C(C=C1)OC)=O | C10H12O3
